US09238639B2
B) Ethyl 6-((2,4-dichlorobenzyl)oxy)-3-hydroxy-1-benzothiophene-2-carboxylate
To a mixture of ethyl 4-((2,4-dichlorobenzyl)oxy)-2-fluorobenzoate (2.0 g) in DMF (dry) (40 mL) were added lithium hydroxide monohydrate (0.978 g) and ethyl 2-mercaptoacetate (1.92 mL) at room temperature. The mixture was stirred at room temperature for 2 d. The mixture was diluted with water and the precipitate was collected by filtration, and washed with IPE to give the title compound (2.30 g).

reactant | ethyl 4-((2,4-dichlorobenzyl)oxy)-2-fluorobenzoate | 2.0 g | ClC1=C(COC2=CC(=C(C(=O)OCC)C=C2)F)C=CC(=C1)Cl | C16H13Cl2FO3
reactant | lithium hydroxide monohydrate | 0.978 g | O.[OH-].[Li+]
reactant | ethyl 2-mercaptoacetate | 1.92 mL | SCC(=O)OCC | C4H8O2S
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 6-((2,4-dichlorobenzyl)oxy)-3-hydroxy-1-benzothiophene-2-carboxylate | 2.30 g | ClC1=C(COC2=CC3=C(C(=C(S3)C(=O)OCC)O)C=C2)C=CC(=C1)Cl | C18H14Cl2O4S
